US05212269
a) Preparation of N-(2-Benzoyloxyethyl)-N-ethylamine
Benzoyl chloride (7.8 mL, 66 mmol) was added dropwise to a stirring solution of (N-ethyl-N-(2-hydroxyethyl)aniline (10 g, 60 mmol) in THF (200 ML) containing triethyl amine (9.2 g, 66 mmol) at room temperature. The mixture formed a thick precipitate which was stirred for 18 hours and then poured into water (400 mL). The aqueous layer was extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed successively with 1 molar hydrochloric acid (100 mL), saturated sodium bicarbonate (100 mL), water (100 mL), saturated sodium chloride (100 mL), dried over magnesium sulfate and the solvent was removed under reduced pressure to yield the product (16.4 g, 96% yield) as a dark green oil.

reactant | Benzoyl chloride | 66 mmol, 7.8 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-ethyl-N-(2-hydroxyethyl)aniline | 60 mmol, 10 g | C(C)N(C1=CC=CC=C1)CCO | C10H15NO
reactant | triethyl amine | 66 mmol, 9.2 g | C(C)N(CC)CC | C6H15N
reactant | water | 400 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-Benzoyloxyethyl)-N-ethylamine | 16.4 g, 96% yield | C(C1=CC=CC=C1)(=O)OCCNCC | C11H15NO2
